US07411071B2
To a solution of 2-(trityl-amino)-thiazole-4-carboxylic acid (400 mg, 1.03 mmol) in DMSO (1 ml) was added KOH (215 mg, 1.55 mmol) followed by addition of 1-iodo-propane (263 mg, 1.55 mmol). The reaction was heated at 60° C. for 1 hour. It was taken into water and ethyl acetate. After separation, the organic layer was washed, dried and evaporated. The obtained crude product was purified via flash column (silica gel, 10% ethyl acetate in hexane) to yield 2-(trityl-amino)-thiazole-4-carboxylic acid propyl ester as a white solid (325 mg, 76%). LC/MS (m/z 429.14 (M+H)+); HPLC Rt: 4.182 min.

reactant | 2-(trityl-amino)-thiazole-4-carboxylic acid | 1.03 mmol, 400 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(=O)O | C23H18N2O2S
reactant | KOH | 1.55 mmol, 215 mg | [OH-].[K+]
reactant | 1-iodo-propane | 1.55 mmol, 263 mg | ICCC | C3H7I
reactant | water | O | H2O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(trityl-amino)-thiazole-4-carboxylic acid propyl ester | 325 mg, 76% | C(CC)OC(=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O2S
